US09062008B2
Step 2: 3-Bromo-5-(4-methylsulfonylphenyl)pyrazin-2-amine
NBS (1.807 g, 10.15 mmol) was added to a stirred solution of 5-(4-methylsulfonylphenyl)pyrazin-2-amine (2.53 g, 10.15 mmol) in DMF (40 mL) and the reaction stirred at ambient temperature for 15 hours. The reaction mixture was added slowly to rapidly stirring water and the resultant precipitate was isolated by filtration and dried in vacuo to give the sub-title compound as a beige solid that was used without further purification (2.8 g, 84% Yield).

reactant | NBS | 10.15 mmol, 1.807 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 5-(4-methylsulfonylphenyl)pyrazin-2-amine | 10.15 mmol, 2.53 g | CS(=O)(=O)C1=CC=C(C=C1)C=1N=CC(=NC1)N | C11H11N3O2S
reactant | water | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-5-(4-methylsulfonylphenyl)pyrazin-2-amine | 84% Yield | BrC=1C(=NC=C(N1)C1=CC=C(C=C1)S(=O)(=O)C)N | C11H10BrN3O2S
